US08476253B2
tert-Butyl 4-amino-2-methylbenzoate
2-Methyl-4-nitrobenzoic acid (700 mg, 3.86 mmol) was dissolved in pyridine (8 mL), p-toluenesulfonyl chloride (1.47 g, 7.74 mmol) was added, then tert-butanol (0.369 mL, 3.86 mmol) was added under ice cooling, and the mixture was stirred at 0° C. for 2 hours and at room temperature for 2 hours. tert-Butanol (0.369 mL, 3.86 mmol) was further added, and the mixture was stirred overnight at room temperature. The solvent was evaporated under reduced pressure, water was added, then the mixture was extracted with ethyl acetate (×3), and the organic layer was washed with 1 N hydrochloric acid, a 1 N aqueous sodium hydroxide solution, water, and saturated sodium chloride solution. The organic layer was dried with anhydrous sodium sulfate, the solvent was evaporated under reduced pressure, a solution of the resulting residue in ethyl acetate (40 mL) was added to 10% palladium-carbon (dry; 222 mg), the atmosphere in the system was replaced with a hydrogen atmosphere, and then the mixture was stirred at room temperature for 2 hours. The atmosphere in the system was replaced with a nitrogen atmosphere, and then the mixture was filtered through celite. The solvent was evaporated under reduced pressure to give the title compound (835 mg; yield, 100%) as a brown solid.

reactant | 2-Methyl-4-nitrobenzoic acid | 3.86 mmol, 700 mg | CC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C8H7NO4
reactant | p-toluenesulfonyl chloride | 7.74 mmol, 1.47 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | tert-butanol | 3.86 mmol, 0.369 mL | C(C)(C)(C)O | C4H10O
reactant | tert-Butanol | 3.86 mmol, 0.369 mL | C(C)(C)(C)O | C4H10O
solvent | pyridine | 8 mL | N1=CC=CC=C1 | C5H5N
product | tert-Butyl 4-amino-2-methylbenzoate | 835 mg, 100% | NC1=CC(=C(C(=O)OC(C)(C)C)C=C1)C | C12H17NO2
